US07572805B2
Part C. (±)-trans-1-tert-Butyl 3-methyl 4-(3-(methoxycarbonyl)naphthalen-2-yl)pyrrolidine-1,3-dicarboxylate
To a solution of (±)-trans-methyl 1-benzyl-4-(3-(methoxycarbonyl)naphthalen-2-yl)pyrrolidine-3-carboxylate (1.82 g, 4.51 mmol) in 10 mL of methylene chloride was added 1-chloroethyl chloroformate (1.0 mL, 9.02 mmol) and the mixture was heated in a microwave oven at 120° C. for 1 h. The reaction was concentrated in vacuo. The residue was taken up in 20 mL of methanol and stirred at 65° C. for 1 h. The reaction was concentrated in vacuo. The residue was dissolved in 50 mL of methylene chloride and then there was added 1 N sodium hydroxide (50 mL) and di-tert-butyldicarbonate (2.0 g, 9.02 mmol). The reaction was stirred at ambient temperature for 18 h. The organics were washed with brine, dried (MgSO4) and concentrated. The residue was purified (ISCO, elution with 0-40% EtOAc/hexane) to afford 1.53 g (82%) of the title compound as an oil. LRMS (ESI): 414.2 (M+H)+.

reactant | (±)-trans-methyl 1-benzyl-4-(3-(methoxycarbonyl)naphthalen-2-yl)pyrrolidine-3-carboxylate | 4.51 mmol, 1.82 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC2=CC=CC=C2C=C1C(=O)OC)C(=O)OC | C25H25NO4
reactant | 1-chloroethyl chloroformate | 9.02 mmol, 1.0 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | sodium hydroxide | 1 N, 50 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 9.02 mmol, 2.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (±)-trans-1-tert-Butyl 3-methyl 4-(3-(methoxycarbonyl)naphthalen-2-yl)pyrrolidine-1,3-dicarboxylate | 1.53 g, 82% | COC(=O)C=1C(=CC2=CC=CC=C2C1)[C@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C23H27NO6
